US04154740
Preparation of 1-ethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-7-yl)urea
Equivalent amounts of 4,5,6,7-tetrahydrobenzo[b]thiophen-7-amine hydrochloride, triethylamine, and ethyl isocyanate in methylene chloride are stirred at room temperature for an hour and then heated to reflux for half an hour. The product is collected, washed well with water, and dried to afford the title compound.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-7-amine hydrochloride | Cl.S1C2=C(C=C1)CCCC2N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-ethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-7-yl)urea | C(C)NC(=O)NC1CCCC2=C1SC=C2 | C11H16N2OS
